US05814648
D. (+)-N-[3-[3-(4,5-Dihydro-4(R)-phenyloxazol-2-yl)phenyl]-2-propyn-1-yl]-N-hydroxyurea
To a solution of N,O-di(tert-butoxycarbonyl)-[3-[3-(4,5-dihydro-4(R)-phenyl-oxazol-2-yl)phenyl]-2-propyn-1-yl]hydroxylamine (1.99 g, 4 mmol) in dichloromethane (30 ml) cooled to 0° C. was slowly added trifluoroacetic acid (10 ml). The reaction mixture was allowed to warm to room temperature, stirred an additional 30 min., and then poured into a saturated aqueous NaHCO3 solution (100 ml). The mixture was extracted with dichloromethane (3×30 ml) and the organic phase washed with brine (20 ml), dried (MgSO4) and evaporated. The resulting residue was dissolved in tetrahydrofuran (20 ml) and trimethylsilyl isocyanate (0.84 ml, 6.3 mmol) added. After stirring for 10 min. precipitation of product occurred. Methanol (1 ml) was added and solvent was removed by evaporation. The resulting solids were recrystallized from ethyl acetate to afford the title compound (0.98 g, 72 %) as white solids.

reactant | N,O-di(tert-butoxycarbonyl)-[3-[3-(4,5-dihydro-4(R)-phenyl-oxazol-2-yl)phenyl]-2-propyn-1-yl]hydroxylamine | 4 mmol, 1.99 g | C(C)(C)(C)OC(=O)N(OC(=O)OC(C)(C)C)CC#CC1=CC(=CC=C1)C=1OC[C@H](N1)C1=CC=CC=C1 | C28H32N2O6
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaHCO3 | 100 ml | C(=O)(O)[O-].[Na+]
reactant | trimethylsilyl isocyanate | 6.3 mmol, 0.84 ml | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | (+)-N-[3-[3-(4,5-Dihydro-4(R)-phenyloxazol-2-yl)phenyl]-2-propyn-1-yl]-N-hydroxyurea | 0.98 g, 72 % | C1(=CC=CC=C1)[C@H]1N=C(OC1)C=1C=C(C=CC1)C#CCN(C(=O)N)O | C19H17N3O3
